US06177419B1
6-(2-Hydroxy-5-methoxyphenyl)-6′-(2-hydroxy-4-methylphenyl)-2,2′-bipyridine was prepared from 6-bromo-6′-(2-hydroxy-4-methylphenyl)-2,2′-bipyridine and 2-hydroxy-5-methoxyphenylboronic acid in 28% yield using method F; δH [2H6]-DMSO 13.70,(1H, b), 12.57,(1H, b), 8.38,(1H, d), 8.31,(1H, 8,25-8.17,(2H, m), 8.12,(1H, d), 8.02,(1H, d), 7.65,(1H, d), 7.00,(1H, dd), 6.94,(1H, d), 6.82,(2H, m), 3.82,(3H, s), 2.33,(3H, s); MS 385 (MH)+; HPLC retention time (system 1) 4.28 minutes.

reactant | 6-bromo-6′-(2-hydroxy-4-methylphenyl)-2,2′-bipyridine | BrC1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C=C(C=C1)C)O | C17H13BrN2O
reactant | 2-hydroxy-5-methoxyphenylboronic acid | OC1=C(C=C(C=C1)OC)B(O)O | C7H9BO4
product | 6-(2-Hydroxy-5-methoxyphenyl)-6′-(2-hydroxy-4-methylphenyl)-2,2′-bipyridine | 28% yield | OC1=C(C=C(C=C1)OC)C1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C=C(C=C1)C)O | C24H20N2O3
